US07691860B2
2) Preparation of 2-{trans-4-(N-methyl-tert-butylsulfonylamino)cyclohexyl}-5-phenylbenzimidazole
Trans-4-(N-methyl-tert-butylsulfonylamino)cyclohexanecarboxylic acid and 4-phenyl-1,2-phenylenediamine were allowed to undergo ring closure condensation under the same conditions as described in Example 1-3), followed by separatory purification on a collective thin-layer chromatograph (chloroform:methanol=10:1) to give the title compound.

reactant | Trans-4-(N-methyl-tert-butylsulfonylamino)cyclohexanecarboxylic acid | CN([C@@H]1CC[C@H](CC1)C(=O)O)S(=O)(=O)C(C)(C)C | C12H23NO4S
reactant | 4-phenyl-1,2-phenylenediamine | C1(=CC=CC=C1)C1=CC(=C(C=C1)N)N | C12H12N2
product | 2-{trans-4-(N-methyl-tert-butylsulfonylamino)cyclohexyl}-5-phenylbenzimidazole | CN([C@@H]1CC[C@H](CC1)C=1NC2=C(N1)C=CC(=C2)C2=CC=CC=C2)S(=O)(=O)C(C)(C)C | C24H31N3O2S
